US03998834
A mixture of 4.3 parts of 4-phenyl-1-cyclohexanone, 4.3 parts of methyl 4-[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate and 80 parts of methanol is hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off. The filtrate is evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 7% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The oily residue is converted into the ethanedioate salt in 2-propanol. After cooling to -20° C, the salt is filtered off and dried, yielding methyl 4-[N-(1-oxopropyl)-N-phenylamino]-1-(4-phenylcyclohexyl)-4-piperidinecarboxylate ethanedioate; mp. 149.2° C.

reactant | 4-phenyl-1-cyclohexanone | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
reactant | methyl 4-[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate | O=C(CC)N(C1=CC=CC=C1)C1(CCNCC1)C(=O)OC | C16H22N2O3
reactant | hydrogen | [H][H] | H2
reactant | methanol | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | methyl 4-[N-(1-oxopropyl)-N-phenylamino]-1-(4-phenylcyclohexyl)-4-piperidinecarboxylate ethanedioate | C(C(=O)O)(=O)O.O=C(CC)N(C1=CC=CC=C1)C1(CCN(CC1)C1CCC(CC1)C1=CC=CC=C1)C(=O)OC | InChI=1S/C28H36N2O3.C2H2O4/c1-3-26(31)30(25-12-8-5-9-13-25)28(27(32)33-2)18-20-29(21-19-28)24-16-14-23(15-17-24)22-10-6-4-7-11-22;3-1(4)2(5)6/h4-13,23-24H,3,14-21H2,1-2H3;(H,3,4)(H,5,6)
